US05461036
At the same time, 11-trimethylsilyl-10-undecynoic acid (0.23 g) was dissolved in ethyl acetate (5 ml), and palladium-carbon (10 mg) was added to the solution. After the air within the reactor was purged with hydrogen, the mixture was stirred at room temperature for 12hours. Then, the mixture was filtered, and the filtrate was concentrated to give 11-trimethylsilylundecanoic acid (0.21 g).

reactant | 11-trimethylsilyl-10-undecynoic acid | 0.23 g | C[Si](C#CCCCCCCCCC(=O)O)(C)C | C14H26O2Si
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 10 mg | [C].[Pd]
product | 11-trimethylsilylundecanoic acid | 0.21 g | C[Si](CCCCCCCCCCC(=O)O)(C)C | C14H30O2Si
